US09062015B2
FS1011 Preparation of (S)-4-[6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-ylamino]butane-1,2-diol
The preparation is carried out analogously to FS1008 starting from 21 mg (0.199 mmol) of (S)-4-aminobutane-1,2-diol and 80 mg (0.199 mmol) of 6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3,5,6-tetrahydro-1,2′-bipyridinyl-4-one. The product is in the form of the hydrochloride.

reactant | (S)-4-aminobutane-1,2-diol | 0.199 mmol, 21 mg | NCC[C@@H](CO)O | C4H11NO2
reactant | 6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3,5,6-tetrahydro-1,2′-bipyridinyl-4-one | 0.199 mmol, 80 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCC(CC1)=O)C | C24H30N2O
reactant | hydrochloride | Cl | ClH
product | (S)-4-[6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-ylamino]butane-1,2-diol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCC(CC1)NCC[C@@H](CO)O)C | C28H41N3O2
